US07282512B2
A 0° C. solution of 1.13 g (2.4 mmol) of tert-butyl (1S)-5-{[(dimethylamino)sulfonyl]amino}-1-{1-hydroxy-2-oxo-2-[(3-pyridinylmethyl)amino]ethyl}pentylcarbamate in 100 mL of ethyl acetate was bubbled with hydrogen chloride gas for 5 min and stirred at room temperature for 30 min before being concentrated under reduced pressure to afford 1.06 g (>99%) of (3S)-3-amino-7-{[(dimethylamino)sulfonyl]amino}-2-hydroxy-N-(3-pyridinylmethyl)heptanamide dihydrochloride. 1H NMR (300 MHz, DMSO-d6) δ 8.92 (t, J=6 Hz, 1H), 8.76 (m, 2H), 8.09 (bs, 1H), 7.87 (m, 2H), 7.17 (m, 1H), 6.68 (m, 1H), 4.46 (m, 2H), (4.32 (d, J=3 Hz) and 4.18 (d, J=3 Hz), 1H), 3.37 (m, 1H), 2.83 (m, 2H), 2.67 (s, 6H), 1.25-1.60 (m, 6H). ES-LCMS m/z 374 (M+H).

reactant | tert-butyl (1S)-5-{[(dimethylamino)sulfonyl]amino}-1-{1-hydroxy-2-oxo-2-[(3-pyridinylmethyl)amino]ethyl}pentylcarbamate | 2.4 mmol, 1.13 g | CN(S(=O)(=O)NCCCC[C@@H](C(C(NCC=1C=NC=CC1)=O)O)NC(OC(C)(C)C)=O)C | C20H35N5O6S
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | (3S)-3-amino-7-{[(dimethylamino)sulfonyl]amino}-2-hydroxy-N-(3-pyridinylmethyl)heptanamide dihydrochloride | 1.06 g, >99% | Cl.Cl.N[C@H](C(C(=O)NCC=1C=NC=CC1)O)CCCCNS(=O)(=O)N(C)C | InChI=1S/C15H27N5O4S.2ClH/c1-20(2)25(23,24)19-9-4-3-7-13(16)14(21)15(22)18-11-12-6-5-8-17-10-12;;/h5-6,8,10,13-14,19,21H,3-4,7,9,11,16H2,1-2H3,(H,18,22);2*1H/t13-,14?;;/m0../s1
